US04824465
3-(5-Amino-2-chlorophenyl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one (38.28 g) was dissolved in 95% acetic acid (138.20 g), and ammonium thiocyanate (27.64 g) was added thereto, followed by stirring at room temperature for 3 hours. To the resultant mixture, a solution of bromine (27.64 g) in acetic acid (41.46 g) was added, followed by stirring at room temperature for 12 hours. The reaction mixture was combined with hot water (274.7 ml), heated to 100° C. and filtered while hot. The filtrate was neutralized with sodium carbonate and extracted with ethyl acetate. Teh extract was washed with water, dried and distilled under reduced pressure to give 3-(2-amino-6-chlorobenzothiazol-5-yl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one (39.06 g) as a resinous substance.

reactant | 3-(5-Amino-2-chlorophenyl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one | 38.28 g | NC=1C=CC(=C(C1)N1C(OC(=N1)C(C)(C)C)=O)Cl | C12H14ClN3O2
reactant | ammonium thiocyanate | 27.64 g | [S-]C#N.[NH4+]
reactant | bromine | 27.64 g | BrBr | Br2
reactant | water | 274.7 ml | O | H2O
solvent | acetic acid | 138.20 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 41.46 g | C(C)(=O)O | C2H4O2
product | 3-(2-amino-6-chlorobenzothiazol-5-yl)-5-(1,1-dimethylethyl)-1,3,4-oxadiazol-2(3H)-one | 39.06 g | NC=1SC2=C(N1)C=C(C(=C2)Cl)N2C(OC(=N2)C(C)(C)C)=O | C13H13ClN4O2S
